US05000775
Ethyl 2-(methylphenylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 15, 4.29 g (0.04 mol) of N-methyl aniline was added to 75 ml of toluene containing 4.87 g (0.02 mol) of 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate. The reaction mixture was stirred at reflux for 72 hours. The product mixture was slurried in ethyl ether, washed with water and 25% sulfuric acid, dried and concentrated. The residue was distilled and the distillate recrystallized from a chloroformmethylcyclohexane solution to yield 3.5 g of a white-powder product (m.p.=78°-81° C.) identified in Table I.

reactant | N-methyl aniline | 0.04 mol, 4.29 g | CNC1=CC=CC=C1 | C7H9N
reactant | toluene | 0.02 mol, 75 ml, 4.87 g | C1(=CC=CC=C1)C | C7H8
reactant | 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate | ClC=1OC(=C(N1)C(F)(F)F)C(=O)[O-]
solvent | ethyl ether | C(C)OCC | C4H10O
product | Ethyl 2-(methylphenylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 3.5 g | CN(C=1OC(=C(N1)C(F)(F)F)C(=O)OCC)C1=CC=CC=C1 | C14H13F3N2O3
